US07220856B2
7-Chloro-4-(4-cyanopiperazin-1-yl)quinoline
A suspension of 7-Chloro-4-(piperazin-1-yl)quinoline (496 mg, 2.0 mmol) and NaHCO3 (504 mg, 6.0 mmol) in EtOH is treated with cyanogen bromide (5 M in MeCN, 440 μL, 2.2 mmol) and stirred at room temp. for 2 h. The solvent is removed, and the residue suspended in CH2Cl2 and filtered. The filtrate is concentrated, and the residue is purified by column chromatography with hexane-EtOAc giving 221 mg of the product as a colorless solid.

reactant | 7-Chloro-4-(piperazin-1-yl)quinoline | 2.0 mmol, 496 mg | ClC1=CC=C2C(=CC=NC2=C1)N1CCNCC1 | C13H14ClN3
reactant | NaHCO3 | 6.0 mmol, 504 mg | C(=O)(O)[O-].[Na+]
reactant | cyanogen bromide | 2.2 mmol, 5 M, 440 μL | N#CBr | CBrN
solvent | EtOH | CCO | C2H6O
product | 7-Chloro-4-(4-cyanopiperazin-1-yl)quinoline | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C#N | C14H13ClN4
